US07320994B2
N-[2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-benzoyl)-pyridin-4-yl]-acetamide
Combine {4-amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone (840 mg, 0.067 mmol) and 2.0 ml of acetic anhydride and sodium acetate (18.2 mg, 0.134 mmol). Seal the reaction mixture in a pyrex tube and heat to 80° C. After 13 hours, cool to RT. Pour the mixture through a plug of Celite® (1 cm) and silica gel (2 cm). Concentrate the clear liquid to 1.0 mL and apply to a 2 mm chromatotron plate and elute with a EtOAc/hexane gradient to provide 26 mg of the title compound: Exact Mass 643.1; mass spectrum (IS): m/z=643.9 (M+1), m/z=641.8 (M−1); 1H NMR (250 MHz, CDCl3) 9.69 (s, 0.6H), 8.39 (s, 1H), 7.74 (s, 1H), 7.15-7.49 (m, 5H), 7.27 (s, 2H), 6.80-7.05 (m, 5H), 5.26 (s, 2H), 2.16 (s, 3H).

reactant | {4-amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | 0.067 mmol, 840 mg | NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C29H18ClF6N5O
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.134 mmol, 18.2 mg | C(C)(=O)[O-].[Na+]
product | N-[2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-benzoyl)-pyridin-4-yl]-acetamide | 26 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=NC=CC(=C2C(C2=C(C=CC=C2)Cl)=O)NC(C)=O)C=C(C1)C(F)(F)F)(F)F | C31H20ClF6N5O2
